US04028344
Preparation of N-[1-(t-Butylazo)cyclohexyl]-N'-phenylthiourea
To 8.4 grams (.0363 moles) of 1-t-butylazo-1-isothiocyanatocyclohexane stirred with a magnetic stirrer in a 50 ml erlenmeyer flask was added 3.39 grams (.0363 moles) of aniline. The reaction mixture was diluted with pentane and stirred for 6 days. The pentane was stripped from the reaction mixture to leave a white solid weighing 11.5 grams (97% crude yield). The product melted at 110°-113° C. and its infrared spectrum had strong bands at 1515 and 1550 cm-1 and moderate NH bands at 3150 and 3280 cm-1 and the isothiocyanate band at 2040 cm-1 was absent.

reactant | 1-t-butylazo-1-isothiocyanatocyclohexane | .0363 moles, 8.4 grams | C(C)(C)(C)N=NC1(CCCCC1)N=C=S | C11H19N3S
reactant | aniline | .0363 moles, 3.39 grams | NC1=CC=CC=C1 | C6H7N
reactant | isothiocyanate | [N-]=C=S
solvent | pentane | CCCCC | C5H12
product | N-[1-(t-Butylazo)cyclohexyl]-N'-phenylthiourea | C(C)(C)(C)N=NC1(CCCCC1)NC(=S)NC1=CC=CC=C1 | C17H26N4S
